US20010047031A1
(RS)-4-[1-(3-Phenyl-propyl)-piperidin-3-yl-sulfanyl]-phenol
The title compound, MS: m/e=328.3 (M+H+) was prepared from (RS)-4-(piperidin-3-yl-sulfanyl)-phenol hydrobromide and 3-phenylpropionaldehyde.

reactant | (RS)-4-(piperidin-3-yl-sulfanyl)-phenol hydrobromide | Br.N1CC(CCC1)SC1=CC=C(C=C1)O
reactant | 3-phenylpropionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
product | (RS)-4-[1-(3-Phenyl-propyl)-piperidin-3-yl-sulfanyl]-phenol | C1(=CC=CC=C1)CCCN1CC(CCC1)SC1=CC=C(C=C1)O | C20H25NOS
